US06956077B1
0.8 g of 3-aminopropyl methacrylamide hydrochloride was dissolved in a methanol solvent and 0.9 g of acetic anhydride and 0.9 g of triethylamine (TEA) were added thereto. The resultant mixture was stirred under ice-cooling for 4 hours. After the completion of the reaction, the solvent was distilled off with an evaporator and the precipitate was filtered off. The filtrate was recovered and introduced into a silica column. Thus, the eluate fraction containing the target product was taken up and subjected to recrystallization to thereby purify the target acetylamide, N-3-propyl methacrylamide (yield: 92%).

reactant | 3-aminopropyl methacrylamide hydrochloride | 0.8 g | Cl.NCCCC=C(C(=O)N)C
reactant | acetic anhydride | 0.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | acetylamide | C(C)(=O)[NH-]
solvent | methanol | CO | CH4O
product | N-3-propyl methacrylamide | yield: 92% | CCCNC(C(=C)C)=O | C7H13NO
